US06486156B1
A solution of 2-(imidazol-1-yl)acetaldehyde (2.6 g; 0.018 mmol), 3-(4-fluorophenyl)-4-methoxycarbonylbenzyl triphenylphosphonium bromide (5.4 g; 0.09 mmol), potassium carbonate (1.38 g; 0.01 mmol) and 18 crown-6 (0.1 g; 0.37 mmol) in THF (150 ml) was stirred under argon atmosphere at ambient temperature overnight. After filtration of the insoluble material and evaporation to dryness, the residue was purified by flash chromatography eluting with a mixture of dichloromethane/ethanol (98/2) to give methyl 4-[3-(imidazol-1-yl)prop-1-en-1-yl]-2-(4-fluorophenyl)benzoate as a mixture of E and Z isomers. Yield: 93%.

reactant | 2-(imidazol-1-yl)acetaldehyde | 0.018 mmol, 2.6 g | N1(C=NC=C1)CC=O | C5H6N2O
reactant | 3-(4-fluorophenyl)-4-methoxycarbonylbenzyl triphenylphosphonium bromide | 0.09 mmol, 5.4 g | [Br-].FC1=CC=C(C=C1)C=1C=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=CC1C(=O)OC
reactant | potassium carbonate | 0.01 mmol, 1.38 g | C([O-])([O-])=O.[K+].[K+]
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | methyl 4-[3-(imidazol-1-yl)prop-1-en-1-yl]-2-(4-fluorophenyl)benzoate | Yield: 93% | N1(C=NC=C1)CC=CC1=CC(=C(C(=O)OC)C=C1)C1=CC=C(C=C1)F | C20H17FN2O2
